Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Epigastric pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year-old M with the history below who
presented with a 1 day h/o epigastric abd pain. Pt started 
having
sudden onset constant stabbing epigastric pain yesterday at 4 pm
a/w nausea and vomiting that got progressively worse over the
past day. He presented to Urgent Care today where CT showed c/f
pancreatitis. US abd was neg for cholelithiasis. Notably, pt has
a significant h/o etOH use and has been drinking heavily for the
past two weeks; 4 drinks of whiskey a day. He has blacked out
from drinking before but never had withdrawal sxs/szs. Last 
drink
was yesterday. He denies fever, chills, poor PO intake, bloody 
or
acolic stools, jaundice. Denies urine urgency, fever, dysuria, 
AV
hallucinations, formication, anxiety. 

 
Past Medical History:
Celiac disease
-confirmed on bx at age ___
-doesn't follow diet 
 
Social History:
___
Family History:
uncle was alcoholic and died of pancreatitis,
father and mother both MIs in ___. 
 
Physical Exam:
Admission PE
VS:  Afebrile and vital signs stable (reviewed in bedside 
record)
General Appearance: pleasant, comfortable, no acute distress
Eyes: anicteric
ENT: dry mm, oropharynx without exudate or lesions
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, ttp to light touch at
epigast___ 
Extremities: no cyanosis, clubbing or edema
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Crossly intact.
Psychiatric: pleasant, appropriate affect
GU: no catheter in place

Discharge PE:
VS: 98.3 74 111/60 18 100% RA
Gen: NAD, resting comfortably
HEENT: EOMI, PERRLA, MMM, OP clear
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: Soft, NT, mild epigastric discomfort, ND
Ext: no c/c/e
 
Pertinent Results:
___ 07:34PM   LACTATE-1.2
___ 07:30PM   GLUCOSE-86 UREA N-10 CREAT-0.9 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-26 ANION GAP-15
___ 07:30PM   WBC-13.8* RBC-4.38* HGB-14.2 HCT-41.5 MCV-95 
MCH-32.4* MCHC-34.2 RDW-13.2 RDWSD-46.1
___ 12:47PM   LIPASE-24

CT A/P ___:
IMPRESSION:  
1. Findings likely reflective of acute interstitial edematous 
pancreatitis 
involving the pancreatic head.  No pancreatic ductal dilatation, 

peripancreatic fluid collections or evidence of necrosis. 
2. No evidence of colitis. 

RUQ US ___:
IMPRESSION: 
Normal abdominal ultrasound, specifically without evidence of 
gallstones or gallbladder wall thickening. 

 
Brief Hospital Course:
___ year-old M with PMH of celiac disease presenting with a 1 day 
h/o epigastric abd pain found to have likely alcoholic 
pancreatitis.

#Pancreatitis: Lipase was normal but CT and history consistent 
with pancreatitis.  Likely alcoholic as he drinks ___ whiskeys 
daily.  No evidence of biliary disease, normal triglycerides, 
does not take any home medications.  Quickly resolved with IV 
fluids, tolerated regular diet without pain or nausea prior to 
discharge.
-Counselled on avoiding alcohol completely until symptoms 
resolve and then need to significantly reduce alcohol use.
-F/u with PCP

#FEN/PPX: regular, ambulatory

Full code
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcoholic pancreatitis.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted for abdominal pain and were found to have 
pancreatitis, likely from excessive alcohol use.  Your pain 
resolved and you tolerated a regular diet.  Please avoid alcohol 
entirely until your symptoms resolve and please work on 
decreasing the amount of alcohol that you drink. 
 
Followup Instructions:
___